US07932262B2
To a 1:1 mixture of ethanol and acetic acid was added 3-methoxy-2-nitrobenzaldehyde (1 eq) and Fe dust (3 eq) was added in portions. The reduction was complete in 3 h. The reaction mixture was filtered and then concentrated and partitioned between ethyl acetate and water. The organic layer was washed with saturated sodium bicarbonate and dried and concentrated to give 2-amino-3-methoxybenzaldehyde in 85% yield. ES/MS m/z 151 (MH+).

reactant | ethanol | C(C)O | C2H6O
reactant | 3-methoxy-2-nitrobenzaldehyde | 1 eq | COC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO4
catalyst | Fe | 3 eq | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-3-methoxybenzaldehyde | 85% yield | NC1=C(C=O)C=CC=C1OC | C8H9NO2
